US08648068B2
65.1 4-[2-((S)-1-tert-Butoxycarbonyl-piperidin-3-yloxy)-4-trifluoromethyl-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester
4-Chloro-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester (326 mg) and (S)-tert-butyl 3-(2-amino-5-(trifluoromethyl)phenoxy)piperidine-1-carboxylate (485 mg) was dissolved in dioxane (4 ml), p-toluenesulfonic acid (26 mg) was added. The reaction mixture was heated at 80° C. for about 5 h. The mixture was diluted with dichloromethane and 10% aq. K2CO3 solution. The organic layer was separated, passed through a hydrophobic frit and concentrated in vacuo. The residue was purified by column chromatography (silica gel; solvent:100% iso hexane→4:1 H:E).

reactant | 4-Chloro-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | 326 mg | COC(=O)C1=C(C2=C(N=CN=C2Cl)S1)C | C9H7ClN2O2S
reactant | (S)-tert-butyl 3-(2-amino-5-(trifluoromethyl)phenoxy)piperidine-1-carboxylate | 485 mg | NC1=C(O[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)C=C(C=C1)C(F)(F)F | C17H23F3N2O3
reactant | p-toluenesulfonic acid | 26 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
product | 4-[2-((S)-1-tert-Butoxycarbonyl-piperidin-3-yloxy)-4-trifluoromethyl-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)C(F)(F)F)O[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)S1)C | C26H29F3N4O5S
